Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
pericardial drain placed ___, removed ___
 
History of Present Illness:
Ms. ___ is an ___ F w/ a PMH significant for ___
esophagus and HLD, presenting w/ chest pain that has been 
present
since ___ ___, found to have pericardial effusion.  
Patient states that since ___ ___, she has had 4 episodes 
of
abdominal pain and lightheadedness which she originally thought
was due to GERD. Went to the ED twice-per pt cardiac workup was
negative and it was attributed to her chronic GI issues. The ___
episode, which occurred about 2 weeks ago, started when she was
in the shower. Per pt, she felt like she was about to collapse
and, when she got out of the shower, she fell to the floor but
did not lose consciousness. Went to the ED and then followed up
with her primary care doctor, who suspected she might have had
"pericarditis". He then scheduled the outpatient echo which
showed the effusion. Patient has also had a "dull" lower
abdominal pain over the past few weeks. No new rashes,
fever/chills. Patient says that she is up to date on all her
cancer screenings and sees her PCP ___. Had a tumor 
removed
from her throat previously-per pt was benign but afterwards she
had radiation and then, a couple of years ago, developed 
necrosis
of her mandible. Has had a facial droop since that time. 
 
In the ED...  
------------  
Patient was stable w/out evidence of tamponade. Admitted for
further management.  

On the floor...  
---------------  
Patient has some mild chest "pressure". No SOB, fever/chills,
nausea/vomiting, or diarrhea. No palpitations. 

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Hyperlipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - ___ Esophagus  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. Mother died in her ___ from a "coronary
event". Father died at age ___ - had "angina". 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
GENERAL: Well appearing elderly woman who appears younger than
stated age, sitting in bed in no acute distress  
HEENT: MMM, EOMI. Facial droop, left side ___ to osteomandibular
necrosis.
NECK: Supple with no JVP elevation  
CARDIAC: Normal rate, regular rhythm. No murmurs/rubs/gallops
appreciated. Pulsus 6 
PULM: Lungs clear to auscultation bilaterally. No
wheezes/crackles appreciated.  
ABDOMEN: Mildly tender in lower quadrants. Soft, non-distended.
Normal bowel sounds.  
EXTREMITIES: No peripheral edema. Pulses 2+ bilaterally.  
NEURO: Alert & oriented x3, no focal neurologic defects  

DISCHARGE PHYSICAL EXAMINATION:  
===============================
VS:  ___ 1126 Temp: 98.1 PO BP: 125/66 R Sitting HR: 90 RR:
17 O2 sat: 95% O2 delivery: Ra 
GENERAL: Well appearing elderly woman, sitting in chair in no
acute distress  
HEENT: MMM, EOMI. Facial droop, left side ___ to osteomandibular
necrosis, stable from baseline.
NECK: Supple with no JVP elevation  
CARDIAC: Normal rate, regular rhythm. No murmurs/rubs/gallops
appreciated. Pericardial drain subchondral with bloody output 
PULM: Lungs clear to auscultation bilaterally. No
wheezes/crackles appreciated.  
ABDOMEN: Soft, non-distended, non-tender. Normal bowel sounds.  
EXTREMITIES: No peripheral edema. Pulses 2+ bilaterally.  
NEURO: Alert & oriented x3, no focal neurologic defects 
 
Pertinent Results:
ADMISSION LABS:
___ 12:43PM BLOOD WBC-4.9 RBC-4.15 Hgb-12.1 Hct-37.8 MCV-91 
MCH-29.2 MCHC-32.0 RDW-12.8 RDWSD-42.5 Plt ___
___ 12:43PM BLOOD Neuts-76.3* Lymphs-12.1* Monos-9.6 
Eos-0.8* Baso-0.8 Im ___ AbsNeut-3.72 AbsLymp-0.59* 
AbsMono-0.47 AbsEos-0.04 AbsBaso-0.04
___ 12:43PM BLOOD ___ PTT-31.6 ___
___ 12:43PM BLOOD Glucose-99 UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-100 HCO3-28 AnGap-13
___ 12:43PM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:10AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.9
___ 12:43PM BLOOD TSH-7.4*
___ 07:10AM BLOOD T4-5.2 T3-104 Free T4-0.8*

IMAGING:
========
___ Cardiovascular Transthoracic Echo Report 

IMPRESSION: Moderate to large circumferential pericardial 
effusion with only one borderline finding for increased 
pericardial pressure, but no ___ tamponade (see above). 
Patient sent to the ED (no beds in ___) for evaluation. 
Compared with the prior TTE ___ , the pericardial 
effusion is new.

FINDINGS:
LEFT ATRIUM (LA)/PULMONARY VEINS: Normal LA volume index.
RIGHT ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC): 
Normal RA
size. Normal IVC diameter with reduced inspiratory collapse==>RA 
pressure ___ mmHg.
LEFT VENTRICLE (LV): Normal wall thicknesses. Normal cavity 
size. Normal regional/global systolic function. The visually 
estimated left ventricular ejection fraction is 65-100%. No 
ventricular septal defect. No resting outflow tract gradient.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall 
motion.
AORTA: Normal sinus diameter for gender. Normal ascending 
diameter for gender. Normal arch diameter.
AORTIC VALVE (AV): Normal/thin (3) leaflets. No stenosis. No 
regurgitation.
MITRAL VALVE (MV): Normal leaflets. No systolic prolapse. 
Chordal systolic anterior motion without resting LV outflow 
tract gradient. Mild [1+] regurgitation. 
PULMONIC VALVE (PV): Normal leaflets. Physiologic regurgitation.
TRICUSPID VALVE (TV): Normal leaflets. Physiologic 
regurgitation. Normal pulmonary artery systolic pressure.
PERICARDIUM: Moderate-large effusion. Circumferential effusion. 
Pericardial stranding c/w
organization. No 2D/Doppler evidence of tamponade.
PLEURAL EFFUSION/ASCITES: Left pleural effusion.

___ Cytology PERICARDIAL FLUID 

DIAGNOSIS:
PERICARDIAL FLUID:
NEGATIVE FOR MALIGNANT CELLS.
Numerous lymphocytes with scattered histiocytes, neutrophils, 
eosinophils, and many red blood cells.

___ Imaging CHEST (PORTABLE AP)  
IMPRESSION:  
Status post drain placement in the pericardium with decreased 
size of cardiac shadow.  Left basilar atelectasis with pleural 
effusion. 

___ Cardiovascular ___ MD ___ 

___ Cardiovascular Transthoracic Echo Report 
CONCLUSION:
The left ventricle has a normal cavity size. There is normal 
regional left ventricular systolic function. The visually 
estimated left ventricular ejection fraction is 65-70%. Tissue 
Doppler suggests an increased
left ventricular filling pressure (PCWP greater than 18mmHg). 
Normal right ventricular cavity size with normal free wall 
motion. The estimated pulmonary artery systolic pressure is 
normal. There is a very
small pericardial effusion measuring up to 0.5 cm in greatest 
dimension. The effusion is echo dense, c/w blood, inflammation 
or other cellular elements. There are no 2D or Doppler 
echocardiographic evidence
of tamponade. A left pleural effusion is present. 

IMPRESSION: Very small pericardial effusion without 
echocardiographic evidence of tamponade. Left pleural effusion. 
Compared with the prior TTE ___, the effusion is markedly 
smaller

DISCHARGE LABS:
===============
___ 06:11AM BLOOD WBC-5.4 RBC-4.45 Hgb-12.9 Hct-40.0 MCV-90 
MCH-29.0 MCHC-32.3 RDW-13.0 RDWSD-42.8 Plt ___
___ 06:11AM BLOOD Plt ___
___ 06:11AM BLOOD ___ PTT-29.2 ___
___ 06:11AM BLOOD Glucose-118* UreaN-20 Creat-0.7 Na-140 
K-4.8 Cl-103 HCO3-26 AnGap-11
___ 06:11AM BLOOD ALT-25 AST-11 AlkPhos-150* TotBili-0.3
___ 06:11AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.0
___ 06:11AM BLOOD RheuFac-13 ___
 
Brief Hospital Course:
___ F w/ a PMH significant for ___ esophagus and HLD, 
presenting w/ chest pain for 3 months and found to have 
pericardial effusion, now s/p pericardiocentesis on ___.

#Pericardial Effusion s/p Pericardiocentesis 
#Chest pain
Patient with chest pain for past ___ months with pericardial 
effusion, now s/p pericardiocentesis with 350 cc of bloody 
output. No growth on bacterial cultures. No malignant cells. In 
terms of malignancy work up, negative recent CTAP (___), EGD 
(___), colonoscopy (___) are negative. Per pt, she had 
negative breast exam in ___, but no record of it or mammography 
in OMR. Differential includes viral syndrome (although no 
prodrome reported) or idiopathic. TSH was minimally elevated, 
and hypothyroidism is likely not the etiology. S/p removal of 
drain on ___. On discharge, ___ was pending. Started colchicine 
and Tylenol for pain management. Pt did not want to trial high 
dose aspirin or NSAIDs given esophageal history. Bedside ECHO on 
day of discharge ___ffusion.

#Hypothyroidism
Patient had a history of benign thyroid nodules (last US in 
___. TSH elevated with low T4. Started synthroid. 

#GERD
___ Esophagus 
Chronic GERD, initially thought this pain was an exacerbation.
- Continue PPI indefinitely

TRANSITIONAL ISSUES:
====================
- Repeat TFTs as outpatient after acute event (6 weeks). Started 
synthroid this admission. 
- No record of recent breast exam or mammography. Need close f/u
with PCP to ___ malignancy as etiology of pericardial effusion.
- Discharge to take 0.6mg colchicine daily for pericarditis 
empiric treatment.
- Please ensure pt follows with Cardiology on discharge 
(preference for Dr. ___ husband follows with him)
- Pt with left lower arm thrombophlebitis on discharge; area of 
redness around PIV site marked, no drainage or significant pain. 

- Labs pending on discharge:
___ 06:11 ___
___ 15:14 FLUID,OTHER ANAEROBIC CULTURE; FUNGAL CULTURE; 
ACID FAST CULTURE
___ 15:14 FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid 
Culture in Bottles
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. esomeprazole magnesium 40 mg oral QAM 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Levothyroxine Sodium 25 mcg PO DAILY 
RX *levothyroxine 25 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  esomeprazole magnesium 40 mg oral QAM  
4.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pericardial effusion
Superficial thrombophlebitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with chest pain.  This chest 
pain is most likely secondary to a pericardial effusion (fluid 
developed in the sac of your heart).  There was no evidence to 
suggest infection in the space or cancerous cells.  We do not 
really know why you developed this effusion but often they 
develop as a result of viral infection.  You may also experience 
some pain over the next few weeks in your chest from the 
inflamed heart sac tissue.  This should get better.  

While you were in the hospital, your left arm caused something 
most likely to be a "thrombophlebitis" - inflammation and a 
small blood clot secondary to the IV.   Your IV was removed.  
This should get better with time and elevation of your left arm. 


What to do next?
- Please call your primary care doctor on ___ to schedule a 
follow up appointment to make sure you are doing well after 
discharge.
- You will be called by Cardiology (Dr. ___ to 
schedule a followup appointment after the weekend.
- Please keep your left arm elevated to heart level and keep 
your left arm dry and clean.  The redness and swelling should 
improve.  If you develop drainage from the area, fevers, chills, 
increasing redness or swelling please call your primary care 
doctor. 
- Please take colchicine daily (a new medication to treat the 
inflammation).  You will likely need to take this medication for 
the next several weeks to possibly a few months.  
- Please take your new thyroid pill synthroid (your thyroid was 
found to be a bit low functioning). You should follow up with 
your primary care doctor about this. 
- You can take Tylenol for pain - up to 4,000mg or 4 grams per 
day.  Read the bottle instructions. 
- Please seek immediate care if your chest pain returns, you 
pass out or have difficulty with breathing.

We wish you the best,

Your ___ Cardiac Care Team
 
Followup Instructions:
___